US09126931B2
8-(4-Cyclobutyl-piperazin-1-yl)-10,10-dimethyl-5-oxo-10,11-dihydro-5H-1,11-diaza-benzo[b]fluorene-2-carbonitrile
According to the method used for synthesizing Compound B3-32, 10,10-dimethyl-5-oxo-8-piperazin-1-yl-10,11-dihydro-5H-1,11-diaza-benzo[b]fluorene-2-carbonitrile was subjected to reductive amination with cyclobutanone to obtain the title compound.

reactant | 10,10-dimethyl-5-oxo-8-piperazin-1-yl-10,11-dihydro-5H-1,11-diaza-benzo[b]fluorene-2-carbonitrile | CC1(C2=C(C(C=3C=4C=CC(=NC4NC13)C#N)=O)C=CC(=C2)N2CCNCC2)C | C22H21N5O
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 8-(4-Cyclobutyl-piperazin-1-yl)-10,10-dimethyl-5-oxo-10,11-dihydro-5H-1,11-diaza-benzo[b]fluorene-2-carbonitrile | C1(CCC1)N1CCN(CC1)C=1C=CC2=C(C(C=3NC=4N=C(C=CC4C3C2=O)C#N)(C)C)C1 | C26H27N5O
